### PR TITLE
[Merged by Bors] - feat(RingTheory/Regular): freeness of `QuotSMulTop`

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
Let `M` be a finitely presented module over a commutative ring `R`. If `x` is in the
Jacobson radical of `R` and `x` is `M`-regular, then `M/xM` is free over `R/(x)` if and only if
`M` is free over `R`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Regular/Free.lean [hunk 1]
```diff
@@ -0,0 +1,113 @@
...
+      simpa [f] using Finsupp.mapRange_surjective _ rfl (Submodule.mkQ_surjective _)
+    have kerf : LinearMap.ker f = x • (⊤ : Submodule R M) := by
+      simp only [f, LinearMap.ker_comp, LinearMap.ker_mapRange_eq_smul_top R I x,
+        Submodule.map_top, Submodule.comap_equiv_eq_map_symm, Submodule.map_pointwise_smul,
+        LinearMap.range_eq_top.mpr b.repr.symm.surjective]
+    let e' := (Submodule.quotEquivOfEq _ _ kerf.symm).trans
+      (LinearMap.quotKerEquivOfSurjective f surjf)
+    let e : QuotSMulTop x M ≃ₗ[R ⧸ Ideal.span {x}] I →₀ R ⧸ Ideal.span {x} :=
+      e'.extendScalarsOfSurjective (Ideal.Quotient.mk_surjective (I := Ideal.span {x}))
+    exact Module.Free.of_equiv e.symm
```
Comment (chrisflav) [inline Mathlib/RingTheory/Regular/Free.lean]: This direction holds in general, without any of the assumptions on `R`: `QuotSMulTop x M` is the base change of `M` to `R ⧸ Ideal.span {x}` and `Module.Free` is stable under base change (see [IsBaseChange.free](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/TensorProduct/IsBaseChangeFree.html#IsBaseChange.free)). In fact, you can also replace the ideal `Ideal.span {x}` by an arbitrary ideal of `R`.

File: Mathlib/RingTheory/Regular/Free.lean [hunk 2]
```diff
@@ -0,0 +1,113 @@
...
+    simpa only [← hz, ← Finsupp.smul_single'] using
+      Submodule.smul_mem_pointwise_smul (Finsupp.single i z) x ⊤ trivial
+  · rcases (Submodule.mem_smul_pointwise_iff_exists _ _ _).mp h with ⟨z, _, eq⟩
+    simpa [← eq] using
+      Ideal.IsTwoSided.mul_mem_of_left (z i) (Ideal.mem_span_singleton_self x)
+
+open Pointwise in
+lemma free_iff_quotSMulTop_free [IsLocalRing R] [IsNoetherianRing R] (M : Type*) [AddCommGroup M]
+    [Module R M] [Module.Finite R M] {x : R} (mem : x ∈ maximalIdeal R) (reg : IsSMulRegular M x) :
+    Module.Free (R ⧸ Ideal.span {x}) (QuotSMulTop x M) ↔ Module.Free R M := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/Regular/Free.lean]: What do you need this lemma for? Are you using this as the base case for computing the projective dimension of `QuotSMulTop x M` for a regular element `x`?

There are a few ways to generalize this: You can remove `IsLocalRing` and replace `Free` by `Projective` and you can probably even drop `Finite` if you replace `Projective` by `Flat` and add that `M` is `x`-adically separated (but the best proof of the last statement is using the long exact sequence of `Tor`, so let's not go there). The proof for the projective case can be reduced to the local ring case by localizing, so showing this particular case is probably fine.

File: Mathlib/RingTheory/Regular/Free.lean [hunk 3]
```diff
@@ -0,0 +1,113 @@
...
+    have surjf : Function.Surjective f := by
+      simpa [f] using Finsupp.mapRange_surjective _ rfl (Submodule.mkQ_surjective (Ideal.span {x}))
+    have lejac : Ideal.span {x} ≤ (⊥ :Ideal R).jacobson :=
+      ((Ideal.span_singleton_le_iff_mem _).mpr mem).trans (maximalIdeal_le_jacobson _)
+    have surjg : Function.Surjective g := by
+      rw [← LinearMap.range_eq_top, ← top_le_iff]
+      apply Submodule.le_of_le_smul_of_le_jacobson_bot (Module.finite_def.mp ‹_›) lejac
+      rw [top_le_iff, sup_comm, ← Submodule.map_mkQ_eq_top, ← LinearMap.range_comp,
+        Submodule.ideal_span_singleton_smul x ⊤, hg]
+      exact LinearMap.range_eq_top_of_surjective f surjf
```
Comment (chrisflav) [inline Mathlib/RingTheory/Regular/Free.lean]: It would be nice to extract from this a lemma saying that if a linear map `M -> N -> N / I N` is surjective, where `N` is finite and `I` is in the Jacobson radical, then `M -> N` is surjective.

File: Mathlib/RingTheory/Regular/Free.lean [hunk 4]
```diff
@@ -0,0 +1,113 @@
...
+open IsLocalRing
+
+private instance finite_QuotSMulTop (M : Type*) [AddCommGroup M] [Module R M] [Module.Finite R M]
+    (x : R) : Module.Finite (R ⧸ Ideal.span {x}) (QuotSMulTop x M) :=
+  Module.Finite.of_restrictScalars_finite R _ _
+
+open Pointwise in
+lemma LinearMap.ker_mapRange_eq_smul_top (I : Type*) [Finite I] (x : R) :
+    LinearMap.ker (Finsupp.mapRange.linearMap (Submodule.mkQ (Ideal.span {x}))) =
+    x • (⊤ : Submodule R (I →₀ R)) := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/Regular/Free.lean]: Could you please generalize this by replacing `Ideal.span {x}` by an arbitrary ideal? Also `Finite I` should not be necessary, because arbitrary coproducts are exact.

File: Mathlib/RingTheory/Regular/Free.lean (hunk 2 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Free.lean]: This is not the main usage, the main usage is proving maximal Cohen--Macaulay module over regular local ring is free. Proving projective dimension stuff is only a side usage I realized later.

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Free.lean]: Currently the only reasonable generalization I think of is probably generaize to some `x` in jacobson radical?

File: Mathlib/RingTheory/Regular/Free.lean (hunk 1 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Free.lean]: Then probably I should also omit the lemma above and use `IsBaseChange` to state?

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Free.lean]: I need it elsewhere, I need to keep the above lemma.

File: Mathlib/RingTheory/Regular/Free.lean (hunk 2 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Free.lean]: I have one last question: should we try to generalize this to finitely presented module over arbitrary ring? (This seems adding not very much imports so I added it for now)

File: Mathlib/RingTheory/Regular/Free.lean [hunk 5]
```diff
@@ -0,0 +1,86 @@
...
+
+universe u v
+
+variable (R : Type u) [CommRing R]
+
+open IsLocalRing
+
+lemma LinearMap.ker_mapRange_mkQ_eq_smul_top (ι : Type*) (I : Ideal R) :
+    LinearMap.ker (Finsupp.mapRange.linearMap I.mkQ) = I • (⊤ : Submodule R (ι →₀ R)) := by
+  ext y
```
Comment (chrisflav) [inline Mathlib/RingTheory/Regular/Free.lean]: This should go to an earlier file if possible.

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Free.lean]: I didn't find very direct file, there might need some change in import.

File: Mathlib/RingTheory/Regular/Free.lean [hunk 6]
```diff
@@ -0,0 +1,86 @@
...
+module
+
+public import Mathlib.Algebra.Module.FinitePresentation
+public import Mathlib.Algebra.Module.Projective
+public import Mathlib.Algebra.Module.Torsion.Basic
+public import Mathlib.GroupTheory.GroupAction.Ring
+public import Mathlib.LinearAlgebra.Dimension.Finite
+public import Mathlib.RingTheory.LocalRing.MaximalIdeal.Basic
+public import Mathlib.RingTheory.Nakayama
+public import Mathlib.RingTheory.QuotSMulTop
```
Comment (chrisflav) [inline Mathlib/RingTheory/Regular/Free.lean:12]:
```suggestion
public import Mathlib.Algebra.Module.FinitePresentation
public import Mathlib.Algebra.Module.Torsion.Basic
public import Mathlib.RingTheory.Nakayama
public import Mathlib.RingTheory.QuotSMulTop
```

File: Mathlib/RingTheory/Regular/Free.lean [hunk 7]
```diff
@@ -0,0 +1,86 @@
...
+
+/-!
+
+# Freeness of QuotSMulTop by regular element
+
+For finitely generated module `M` over Noetherian local ring `(R, m)`, if `x ∈ m` is `M`-regular,
+`M/xM` is free over `R/(x)` iff `M` is free over `R`.
```
Comment (chrisflav) [inline Mathlib/RingTheory/Regular/Free.lean]: Could you please update this to match the generalised statement?

File: Mathlib/RingTheory/Regular/Free.lean [hunk 8]
```diff
@@ -0,0 +1,86 @@
...
+      rw [Submodule.ideal_span_singleton_smul]
+      intro y hy
+      have : y ∈ x • (⊤ : Submodule R (I →₀ R)) := by simp [← kerf, ← hg, LinearMap.mem_ker.mp hy]
+      rcases (Submodule.mem_smul_pointwise_iff_exists _ _ _).mp this with ⟨z, _, hz⟩
+      simp only [← hz, LinearMap.mem_ker, map_smul] at hy
+      have := LinearMap.mem_ker.mpr (IsSMulRegular.right_eq_zero_of_smul reg hy)
+      simpa [hz] using Submodule.smul_mem_pointwise_smul z x _ this
+    exact Module.Free.of_equiv (LinearEquiv.ofBijective g ⟨injg, surjg⟩)
+  · exact Module.Free.of_equiv ((QuotSMulTop.equivQuotTensor x M).extendScalarsOfSurjective
+      Ideal.Quotient.mk_surjective).symm
```
Comment (chrisflav) [inline Mathlib/RingTheory/Regular/Free.lean]: Could you please make this a separate instance?

File: Mathlib/RingTheory/Regular/Free.lean (hunk 5 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Regular/Free.lean]: By adding a bit of API, you can prove this more directly:
```lean4
@[simp]
lemma Finsupp.comap_lsingle_submodule {M : Type*} [AddCommGroup M] [Module R M]
    (ι : Type*) (p : ι → Submodule R M) (i : ι) :
    Submodule.comap (lsingle i) (submodule p) = p i := by
  ext x
  refine ⟨fun hx ↦ by simpa using hx i, fun hx j ↦ ?_⟩
  obtain (rfl | h) := eq_or_ne i j <;> simp_all

lemma Finsupp.submodule_eq_iSup {M : Type*} [AddCommGroup M] [Module R M]
    (ι : Type*) (p : ι → Submodule R M) :
    Finsupp.submodule p = ⨆ i, Submodule.map (Finsupp.lsingle i) (p i) := by
  refine le_antisymm ?_ ?_
  · intro x hx
    rw [← Finsupp.sum_single x]
    refine Submodule.sum_mem _ (fun i _ ↦ ?_)
    exact Submodule.mem_iSup_of_mem i (Submodule.mem_map_of_mem (hx i))
  · simp [iSup_le_iff, Submodule.map_le_iff_le_comap]

lemma Finsupp.submodule_smul {M : Type*} [AddCommGroup M] [Module R M]
    (ι : Type*) (p : ι → Submodule R M) (I : Ideal R) :
    Finsupp.submodule (fun i ↦ I • p i) = I • Finsupp.submodule p := by
  simp only [Finsupp.submodule_eq_iSup, Submodule.map_smul'', ← Submodule.smul_iSup]

@[simp]
lemma Finsupp.submodule_top {M : Type*} [AddCommGroup M] [Module R M]
    (ι : Type*) :
    Finsupp.submodule (fun _ : ι ↦ (⊤ : Submodule R M)) = ⊤ := by
  ext
  simp

lemma LinearMap.ker_mapRange_mkQ_eq_smul_top (ι : Type*) (I : Ideal R) :
    LinearMap.ker (Finsupp.mapRange.linearMap I.mkQ) = I • (⊤ : Submodule R (ι →₀ R)) := by
  rw [Finsupp.ker_mapRange, Submodule.ker_mkQ, ← I.mul_top, ← smul_eq_mul,
    Finsupp.submodule_smul]
  simp
```
Now maybe you can just inline the last lemma. The others need to be moved to earlier files.

File: Mathlib/RingTheory/Regular/Free.lean (hunk 8 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Free.lean]: Where do you expext this instance be? The file defining `QuotSMulTop` seems not having `Module.Free`

File: Mathlib/RingTheory/Regular/Free.lean (hunk 5 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Free.lean]: I inlined the last one, and most are moved to `LinearAlgebra.Finsupp.Pi`.
But since it doesn't import ideal smul, for `Finsupp.submodule_smul`, `find_home` suggested `Mathlib.RingTheory.Noetherian.Basic`, which I doesn't think very appropriate, where should it go?

File: Mathlib/LinearAlgebra/Finsupp/Pi.lean [hunk 9]
```diff
@@ -208,6 +208,31 @@ lemma mem_submodule_iff (S : α → Submodule R M) (x : α →₀ M) :
     x ∈ submodule S ↔ ∀ i, x i ∈ S i := by
   rfl
 
+@[simp]
+lemma comap_lsingle_submodule {M : Type*} [AddCommGroup M] [Module R M]
+    (ι : Type*) (p : ι → Submodule R M) (i : ι) :
```
Comment (chrisflav) [inline Mathlib/LinearAlgebra/Finsupp/Pi.lean]: Could you please check if some of the variables can be recycled from section variables here?

File: Mathlib/RingTheory/Regular/Free.lean [hunk 10]
```diff
@@ -0,0 +1,78 @@
...
+module
+
+public import Mathlib.Algebra.Module.FinitePresentation
+public import Mathlib.Algebra.Module.Torsion.Basic
+public import Mathlib.RingTheory.Nakayama
+public import Mathlib.RingTheory.QuotSMulTop
+
+/-!
+
+# Freeness of QuotSMulTop by regular element
```
Comment (chrisflav) [inline Mathlib/RingTheory/Regular/Free.lean]:
```suggestion
# Freeness of QuotSMulTop by a regular element
```

File: Mathlib/RingTheory/Regular/Free.lean [hunk 11]
```diff
@@ -0,0 +1,78 @@
...
+
+For finitely presented module `M` over commutative ring `R`, if `x` in the jacobson radical of `R`
+is `M`-regular, then `M/xM` is free over `R/(x)` iff `M` is free over `R`.
```
Comment (chrisflav) [inline Mathlib/RingTheory/Regular/Free.lean]:
```suggestion
Let `M` be a finitely presented module over a commutative ring `R`. If `x` is in the Jacobson radical of `R` and `x` is `M`-regular, then `M/xM` is free over `R/(x)` if and only if `M` is free over `R`.
```

File: Mathlib/RingTheory/Regular/Free.lean [hunk 12]
```diff
@@ -0,0 +1,78 @@
...
+    Finsupp.submodule (fun i ↦ I • p i) = I • Finsupp.submodule p := by
+  simp only [Finsupp.submodule_eq_iSup, Submodule.map_smul'', ← Submodule.smul_iSup]
+
+instance (M : Type*) [AddCommGroup M] [Module R M] [Module.Free R M] (x : R) :
+    Module.Free (R ⧸ Ideal.span {x}) (QuotSMulTop x M) :=
+  Module.Free.of_equiv ((QuotSMulTop.equivQuotTensor x M).extendScalarsOfSurjective
+      Ideal.Quotient.mk_surjective).symm
+
+open Pointwise in
+lemma free_iff_quotSMulTop_free (M : Type*) [AddCommGroup M] [Module R M]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Regular/Free.lean]:
```suggestion
lemma Module.free_quotSMulTop_iff (M : Type*) [AddCommGroup M] [Module R M]
```

File: Mathlib/RingTheory/Ideal/Finsupp.lean [hunk 13]
```diff
@@ -0,0 +1,24 @@
...
+Authors: Nailin Guan
+-/
+module
+
+public import Mathlib.LinearAlgebra.Finsupp.Pi
+public import Mathlib.RingTheory.Ideal.Operations
+
+/-!
+
+# Submodule of ideal smul in Finsupp
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/Finsupp.lean]:
```suggestion
# Lemmas for action of ideals on submodules of `Finsupp`
```

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge

File: Mathlib/LinearAlgebra/Finsupp/Pi.lean [hunk 14]
```diff
@@ -208,6 +208,27 @@ lemma mem_submodule_iff (S : α → Submodule R M) (x : α →₀ M) :
     x ∈ submodule S ↔ ∀ i, x i ∈ S i := by
   rfl
 
+@[simp]
+lemma comap_lsingle_submodule (p : α → Submodule R M) (i : α) :
+    Submodule.comap (lsingle i) (submodule p) = p i := by
+  ext x
+  refine ⟨fun hx ↦ by simpa using hx i, fun hx j ↦ ?_⟩
+  obtain (rfl | h) := eq_or_ne i j <;> simp_all
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Finsupp/Pi.lean]: Can you use `rcases` here? `obtain` seems a bit strange.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+
